US04171361
A reaction mixture containing 52 g. of N-pyrrolidinylcarbonyl-2-methylthio-4,5-dimethoxyaniline 19.8 ml. of 31 percent aqueous hydrogen peroxide and 1 l. of glacial acetic acid was stirred for about 20 hours at ambient temperature. The reaction mixture was then concentrated under reduced pressure to a residual wax. The residue was dissolved in 1 l. of methylene chloride and the methylene chloride layer washed twice with water and then dried. Removal of the methylene chloride in vacuo yielded a residue comprising N-pyrrolidinylcarbonyl-2-methylsulfinyl-4,5-dimethoxyaniline which, after recrystallization from a benzene-hexane solvent mixture, yielded material melting at 124°-7° C. (80 percent yield).

reactant | N-pyrrolidinylcarbonyl-2-methylthio-4,5-dimethoxyaniline | 19.8 ml | N1(CCCC1)C(=O)NC1=C(C=C(C(=C1)OC)OC)SC | C14H20N2O3S
reactant | hydrogen peroxide | OO | H2O2
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | N-pyrrolidinylcarbonyl-2-methylsulfinyl-4,5-dimethoxyaniline | N1(CCCC1)C(=O)NC1=C(C=C(C(=C1)OC)OC)S(=O)C | C14H20N2O4S
